US04092315
Prazosin Hydrochloride, γ-Form
2-(1-Piperazinyl)-4-amino-6,7-dimethoxyquinazoline (57.8 g., 0.20 mole) was dissolved in 1000 ml. of chloroform and 30.2 g. (0.20 mole) of 2-furoyl chloride was added slowly at ambient temperature. When the addition was completed the resulting slurry was stirred for 15 minutes after which 1000 ml. of isoamyl alcohol was added. To the resulting mixture was then added sufficient 10% (w/w) aqueous sodium hyroxide solution to effect the solution of the solid material, about 200 ml. was ordinarily required, while maintaining the mixture at room temperature. The aqueous layer was separated and the organic phase was washed with 250 ml. of water. The organic layer was dried over anhydrous MgSO4, filtered and the filtrate cooled to 0° C. Anhydrous hydrogen chloride was passed through the solution at 0°-5° C. until the solution was acidic to moistened test paper (pH about 2-2.5), about 45 minutes was required for the addition. The chloroform was then evaporated at reduced pressure while warming gently to about 45° at 20-30 mm Hg. The vacuum was then released and the solution heated to about 100° C. to remove the last traces of chloroform. The mixture was then allowed to cool to room temperature. The product was recovered by filtration, washed with chloroform and dried in the vacuum oven at 50°-60° C. to afford 73.9 g. of needle-like crystals, M.P. 277°-279° C. (dec.) of the title polymorph.

reactant | 2-(1-Piperazinyl)-4-amino-6,7-dimethoxyquinazoline | 0.20 mole, 57.8 g | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 2-furoyl chloride | 0.20 mole | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | sodium hyroxide | [OH-].[Na+]
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | Prazosin Hydrochloride | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4=CC=CO4.Cl | InChI=1S/C19H21N5O4.ClH/c1-26-15-10-12-13(11-16(15)27-2)21-19(22-17(12)20)24-7-5-23(6-8-24)18(25)14-4-3-9-28-14;/h3-4,9-11H,5-8H2,1-2H3,(H2,20,21,22);1H
